US06887869B2
12-dimethylamino-11-hydroxy-3,8-dimethyl-5,9,15-trioxatetracyclo[11.2.1.02,6.08,10]hexadec-13(16)-ene-4,14-dione
A solution of dimethylamine (500 μmol, 250 μl, 2M in THF) is added to a solution of dihydromikanolide (100 μmol, 29 mg) in acetone (1 ml). The reaction mass is stirred for 2 hours at ambient temperature then the solvent is eliminated by evaporation under reduced pressure. The residue is taken up in ether, filtered and dried under vacuum. 25 mg of product is obtained in the form of a white powder.

reactant | dimethylamine | 500 μmol, 2M, 250 μl | CNC | C2H7N
reactant | dihydromikanolide | 100 μmol, 29 mg | C[C@@H]1[C@@H]2[C@H](C[C@]3([C@@H](O3)[C@H]4[C@H](O4)C5=C[C@H]2OC5=O)C)OC1=O | C15H16O6
solvent | acetone | 1 ml | CC(=O)C | C3H6O
product | 12-dimethylamino-11-hydroxy-3,8-dimethyl-5,9,15-trioxatetracyclo[11.2.1.02,6.08,10]hexadec-13(16)-ene-4,14-dione | 25 mg | CN(C1C(C2OC2(CC2OC(C(C2C2OC(C1=C2)=O)C)=O)C)O)C | C17H23NO6
